US06448255B1
11-(4-Fluorophenyl)-11-hydroxy-2,3,4,11-tetrahydro-6H-pyrimido[1,2-b]isoquinolin-6-one
A mixture of 1-(4-fluorophenyl)-3-oxo-1,3-dihydro-2-benzofuran-1-carboxamide (17 g), 1,3-diaminopropane (25 mL), and toluene (125 mL) was heated at reflux for 19 h in a flask equipped with a water separator. The mixture was cooled to ambient temperature and extracted with water, and evaporated to dryness. The residue was crystallized from ethanol to give the title compound (26 g) as a solid, m.p. 126-128° C.

reactant | 1-(4-fluorophenyl)-3-oxo-1,3-dihydro-2-benzofuran-1-carboxamide | 17 g | FC1=CC=C(C=C1)C1(OC(C2=C1C=CC=C2)=O)C(=O)N | C15H10FNO3
reactant | 1,3-diaminopropane | 25 mL | NCCCN | C3H10N2
reactant | toluene | 125 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 11-(4-Fluorophenyl)-11-hydroxy-2,3,4,11-tetrahydro-6H-pyrimido[1,2-b]isoquinolin-6-one | 26 g | FC1=CC=C(C=C1)C1(C=2N(C(C=3C=CC=CC13)=O)CCCN2)O | C18H15FN2O2
